US06355653B1
3.4 g (0.0125 Mol) of 2-(phenylsulfonyl)-ethanimidic acid ethyl ester was stirred together with 2.2 g (0.015 mol) benzofuran-2-carboxylic acid hydrazide in 80 ml chloroform for 24 hours at 50° C. The resulting precipitate was filtered off and dried. 2.67 g of benzofuran-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide was obtained as off-white crystals. Mp.: 205-220° C.

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester | 0.0125 Mol, 3.4 g | C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N | C10H13NO3S
reactant | benzofuran-2-carboxylic acid hydrazide | 0.015 mol, 2.2 g | O1C(=CC2=C1C=CC=C2)C(=O)NN | C9H8N2O2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | benzofuran-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 2.67 g | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(=O)C=1OC2=C(C1)C=CC=C2 | C17H15N3O4S
